US07897792B2
Dimethylcarbamic acid 3-(3-amino-2-fluorobenzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester
Ethyl acetate (2.0 mL) was added to dimethylcarbamic acid 4-fluoromethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester (20.5 mg) (6c-1-4), and tin(II) chloride dihydrate (60 mg) was added to the resultant suspension while stirring at room temperature. The suspension was heated under reflux for 1.5 hours, and after cooling to room temperature, saturated sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The resultant organic layer extraction liquid was washed with saturated saline, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was then distilled away under reduced pressure to yield the title compound (19.5 mg).

reactant | dimethylcarbamic acid 4-fluoromethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 20.5 mg | FCC1=C(C(OC2=C1C=CC(=C2)OC(N(C)C)=O)=O)CC2=C(C(=CC=C2)[N+](=O)[O-])F | C20H16F2N2O6
reactant | tin(II) chloride dihydrate | 60 mg | O.O.[Sn](Cl)Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
product | Dimethylcarbamic acid 3-(3-amino-2-fluorobenzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester | 19.5 mg | NC=1C(=C(CC=2C(OC3=C(C2CF)C=CC(=C3)OC(N(C)C)=O)=O)C=CC1)F | C20H18F2N2O4
